US05470845
A. 4-(2-Phenylethoxy)benzenepropanoic acid, 2-phenylethyl ester
To a stirred solution of 5.00 g (30.1 mmol) of 4-hydroxybenzenepropanoic acid, 8.0 mL of 2-phenylethanol (67 mmol) and 16.3 g (61 mmol) of triphenyl-phosphine in 50 mL of THF at -10° C. under argon was added a solution 12.0 mL (61 mmol) of diisopropyl diazodicarboxylate in 50 mL of THF over the course of 4 hours. The resulting light yellow solution was allowed to warm to room temperature, stirred 16 h and then evaporated. The oily residue was triturated in 500 mL of hot hexane until a precipitate was formed. The solids were filtered off and treated with an additional 100 mL of hot hexane. The filtrates were combined and concentrated. Purification of the residue by flash chromatography (5×20 cm column, 3:2 dichloromethane/hexanes as elutent) gave 6.51 g, 58% yield, of title compound as a colorless oil.

reactant | 4-hydroxybenzenepropanoic acid | 30.1 mmol, 5.00 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 2-phenylethanol | 67 mmol, 8.0 mL | C1(=CC=CC=C1)CCO | C8H10O
reactant | triphenyl-phosphine | 61 mmol, 16.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl diazodicarboxylate | 61 mmol, 12.0 mL | [N+](=[N-])(C(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(2-Phenylethoxy)benzenepropanoic acid, 2-phenylethyl ester | 58% yield | C1(=CC=CC=C1)CCOC1=CC=C(C=C1)CCC(=O)OCCC1=CC=CC=C1 | C25H26O3
